US08258130B2
(Ref.: J. Org. Chem. 2002, 67, 6226-6227) 7-Azaindole (5 g, 42.3 mmol) is added to a stirred suspension of AlCl3 (22.6 g, 169 mmol) in DCM (300 mL). After stirring at rt for 1 h, acetyl chloride (13.3 g, 169 mmol) is added drop wise and the resulting mixture is stirred for 18 h. The mixture is cooled to 00 C., quenched with MeOH (150 mL) and stirred for 1 h. Silica gel is added to the mixture, the solvents are removed under vacuum, and the residue is purified by silica gel chromatography eluting with 10% MeOH in DCM to afford 1-(1H-pyrrolo[2,3-b]pyridin-3-yl)-ethanone (1.6 g). 1H NMR (300 MHz, CH3OD): δ 8.93(d, 1H), 8.45(s, 2H), 7.50(t, 1H), 3.30(s, 3H).

reactant | 7-Azaindole | 42.3 mmol, 5 g | N1C=CC2=CC=CN=C12 | C7H6N2
reactant | AlCl3 | 169 mmol, 22.6 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | acetyl chloride | 169 mmol, 13.3 g | C(C)(=O)Cl | C2H3ClO
solvent | DCM | 300 mL | C(Cl)Cl | CH2Cl2
product | 1-(1H-pyrrolo[2,3-b]pyridin-3-yl)-ethanone | 1.6 g | N1C=C(C=2C1=NC=CC2)C(C)=O | C9H8N2O
